US09353096B2
To a mixture of tert-butyl 3-phenylpiperazine-1-carboxylate (288 mg, 1.1 mmol), and formaldehyde (185 mg, 6.16 mmol) in methanol (7 mL) was added sodium triacetoxyborohydride (949 mg, 4.48 mmol) at 0° C. After stirring for 3 h at room temperature, the reaction mixture was diluted with 10% sodium bicarbonate solution and ethyl acetate. The aqueous part was extracted with ethyl acetate and the combined organic part was dried over sodium sulfate, filtered, concentrated in vacuo. The residue was purified by flash chromatography (20/1 dichloromethane/methanol) to provide 4-methyl-3-phenyl-piperazine-1-carboxylic acid tert-butyl ester (307 mg, 101%). (M+H)+=277 m/e. To a solution of 4-methyl-3-phenyl-piperazine-1-carboxylic acid tert-butyl ester (307 mg, 1.11 mmol) in THF (3 mL) at 0° C. was added 4M HCl in dioxane (0.9 mL). The reaction mixture was stirred overnight and concentrated in vacuo. The residue was triturated with dichloromethane and filtered to provide 1-methyl-2-phenyl-piperazine dihydrochloride (290 mg), which was used as is for the next step.

reactant | tert-butyl 3-phenylpiperazine-1-carboxylate | 1.1 mmol, 288 mg | C1(=CC=CC=C1)C1CN(CCN1)C(=O)OC(C)(C)C | C15H22N2O2
reactant | formaldehyde | 6.16 mmol, 185 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 4.48 mmol, 949 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 7 mL | CO | CH4O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methyl-3-phenyl-piperazine-1-carboxylic acid tert-butyl ester | 307 mg, 101% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C)C1=CC=CC=C1 | C16H24N2O2
